data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3991,"C=CC[CH:1](C[CH:2]=[CH2:3])[Li-2:4]1[N+](C)(C)CC[N+]1(C)C|((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,6808,"CC[SH:1].C[C:2](=[O:3])[CH:4]=[CH2:5]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,7287,"C[Si](C)(C)[O:1]CC[O+:2]=[CH2:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4216,"CC(NC(=O)CNC(=O)C(CC1=CC=CC=C1)[NH2+:1][C:2](=O)[O-:3])C(=O)O.C[C+](C)C.O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6465,"CC(=O)OC(=O)CCC(Cl)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9814,"CCC1CCC[C:1](C)([H:2])[CH:3]1[Cl:4].[NH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9133,"CCCCC(C)(O)C(C(SC1=CC=CC=C1)[Si:1](C)(C)C)[O-:2].[Li+]|(2, 1)"
train,pmechdb_split_0,0,7650,"CC(CC=CI)C(O[B-](F)(F)F)C(C)C(=[O+][Si:1](C)(C)C(C)(C)C)C(C)C(O[Si](C)(C)C(C)(C)C)C(C)C1O[Si](C(C)C)(C(C)C)OC(C(C)CO[Si](C)(C)C(C)(C)C)C1C.CC[O:2]CC|(2, 1)"
train,pmechdb_split_0,0,1263,"OC(CBr)=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1217,"C[B-](C)(C)[O+:1]=[CH2:2].C[Si](C)(C)C[C:3]#[CH:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2699,"CC(CC[O-:1])[C:2](C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8810,"CC[C:1](C1=C([C:2](C#N)([H:3])[O-:4])C=CC=C1)=[O:5].[Na+]|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,656,"COC1=C2C3=C(C=C1)CC1N(CC4CCC4)CCC34C1(O)CC[CH-:1][CH:2]4[O:3]2.N#N.O.[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1869,"C=CC[C+:1]1C=C[C:2](C(C)CC2=CC=CC=C2)([H:3])[CH:4]=[CH:5]1.[F-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,4179,"C=C(CCC1(C2=CC(OC)=C(OC)C=C2)CC(=O)[N:1](C)[CH:2]1[O:3]S(C)(=O)=O)C[Si](C)(C)C.CC[NH+](CC)CC.[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6145,"C1CCC(N=C(NC2CCCCC2)O[C:1](CCCC[NH2:2])=[O:3])CC1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6376,"CCC[CH:1]([NH+:2]1CCCCC1)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3856,"CC(=O)[O-:1].CCC(N(C)CC(=O)O)[C:2]1([H:3])C(=O)OC(C)(C)O[C:4]1=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7402,"CC(C)[O-].CCCCCC1CC(C)CC[C:1]1([H:2])[O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1848,"COC1=CC2=C(C=C1)CCN1C(=O)C=C3C=CC([O+:1](C)[K-:2][OH])CC321.O.[I-]|((2, 1), 1)"
train,pmechdb_split_0,0,2212,"C[Si](C)(C)C=[C:1]=[CH:2]CCCC[C+:3](C)C|((1, 2), 3)"
train,pmechdb_split_0,0,8278,"O=[N+]([O-])C1=CC2=C(C=C1)[C:1](Br)([H:2])[CH+:3]C=C2.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5185,"CC1=[O+:1][B-:2]2(OC(C3=CC=CC=C3)C1C)OC(C)(C)C(C)(C)O2|((2, 1), 1)"
train,pmechdb_split_0,0,2388,"CC(=CC[C:1](CCC1=CC=CC=C1)=[O:2])[NH2:3].CO.N.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1204,"CC[O:1][C:2](C)(CC#N)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8746,"CC(=O)[O-:1].CC(O)(CCC(=O)C1=CC=CC=C1)[NH2+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4679,"[H:1][AlH3-:2].[Li][O+:3]=[C:4](CCC)N(CCC)CCC|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,9103,"CCN[C:1](CC)([N+:2]1=CN(C)C=C1)[O-:3].CC[NH3+].O=[N+]([O-])C1=CC=C([O-])C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5571,"CC1(C)C=CC(=O)C(C)(CC[C:1]([CH2:2][H:3])=[O:4])C1.C[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,6129,"CC(OC1=CC=CC=C1)C(N)=O.CC[O:1]CC.C[O+:2](C)[CH3:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,322,"[Li:1][CH3:2].[Li][P+:3](Cl)(Cl)Cl|((1, 2), 3)"
train,pmechdb_split_0,0,138,"NC1=CC=CC=[C:1]1[Mg:2][Br].[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5406,"CCC(CO)[NH2:1].[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1779,"CCC(CBr)=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1703,"CC(=O)Cl.CC1(C)CC(=O)[CH:1]([H:2])[C:3](=[O:4])C1.CC[N:5](CC)CC|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1428,"CC(CO[Si](C)(C)C(C)(C)C)(C(=O)[O-:1])C1=CC=CC=C1.CC[NH+](CC)CC.[N-]=[N+]=N[P:2](OC1=CC=CC=C1)(OC1=CC=CC=C1)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1717,"CC1=CC=C(S(=O)(=O)O)C=C1.CCO.CCOC(=O)[C:1](CC(=O)C1=CC=CO1)=[O:2].N#CC1=CC=CC(N[NH2:3])=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,20,"CC(=O)[O-:1].CO[Si:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,4385,"C1=CC=C([S-:1])C=C1.CC1[CH2:2][O:3]1.CCO.[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3917,"CC(=O)O[C:1](C)=[O:2].COC1=C(C(OC(C)=O)C(NC(=O)C2=CC=CC=C2)C(=O)[O-:3])C(O)=CC=C1.O=C(O)[O][K].[K+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10337,"CCCC1C(C[CH2:1][O:2]S(=O)(=O)C2=CC=C(C)C=C2)C[CH:3]=[CH:4]1|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2742,"C[C:1](=[O:2])[O-:3].C[C:4](Cl)=[O:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5321,"CO[C:1](N(C)C)=[O:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9235,"CCC[O+](C)[B:1](F)F.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,2784,"CCC[NH2:1].[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4938,"BrC[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.O=[S+:5](=O)O|((1, 2), 3);((3, 4), 5)"
